US06632816B1
Preparation of (1S,5S)-(1-{5-[(3-Amino-4-fluoro-benzenesulfonyl)-isobutyl-amino]-6-hydroxy-hexylcarbamoyl}-2-naphthalen-2-yl-ethyl)-carbamic Acid tert-Butyl Ester (MX-236)
The title compound was prepared from the crude amine mixture of (1S)-N-(5-amino-1-hydroxymethyl-pentyl)-N-isobutyl-3-amino-4-fluoro-benzenesulfonamide which is described earlier (example 53, step C, which was made from a batch of sulfonyl chloride containing the two regioisomers) and (2S)-2-tert-butoxycarbonylamino-3-naphthalen-2-yl-propionic acid using general procedure A. The crude residue was purified by semi-preparative HPLC in several batches of 80 mg using a gradient of 35 to 90% of acetonitrile over 30 min and a flow rate of 15 mL/min, retention time=23.9 min. All the pure fractions were combined to provide 460 mg (38% yield) of the title compound.

reactant | (1S)-N-(5-amino-1-hydroxymethyl-pentyl)-N-isobutyl-3-amino-4-fluoro-benzenesulfonamide | NCCCC[C@@H](CO)N(S(=O)(=O)C1=CC(=C(C=C1)F)N)CC(C)C | C16H28FN3O3S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | (2S)-2-tert-butoxycarbonylamino-3-naphthalen-2-yl-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C18H21NO4
product | (1S,5S)-(1-{5-[(3-Amino-4-fluoro-benzenesulfonyl)-isobutyl-amino]-6-hydroxy-hexylcarbamoyl}-2-naphthalen-2-yl-ethyl)-carbamic Acid tert-Butyl Ester | 460 mg, 38% yield | C(C)(C)(C)OC(N[C@@H](CC1=CC2=CC=CC=C2C=C1)C(NCCCC[C@@H](CO)N(CC(C)C)S(=O)(=O)C1=CC(=C(C=C1)F)N)=O)=O | C34H47FN4O6S
